US05708008
5-(4-cyanobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 20.0 mg (0.087 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 38.0 mg (0.131 mMol) 4-cyanobenzoic acid, 13.5 mg (43.1%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.087 mMol, 20.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 4-cyanobenzoic acid | 0.131 mMol, 38.0 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
product | 5-(4-cyanobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 13.5 mg, 43.1% | C(#N)C1=CC=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=C1 | C22H22N4O
